US07211572B2
To a solution of 3-benzyloxy-5-(1-hydroxy-2,2-dimethylpropyl)-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide (0.22 g) in tetrahydrofuran (1.5 ml)-ethanol (1.5 ml) was added aminoacetaldehyde dimethyl acetal (0.16 ml) and the mixture was stirred at 60° C. for 24 hr. The solvent was evaporated and purified by silica gel column chromatography (ethyl acetate:hexane=1:1-ethyl acetate) to give 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-(1-hydroxy-2,2-dimethylpropyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (198 mg).

reactant | 3-benzyloxy-5-(1-hydroxy-2,2-dimethylpropyl)-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide | 0.22 g | ClC=1C=C(CNC(=O)C=2OC=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)O)C=CC1 | C25H26ClNO5
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | aminoacetaldehyde dimethyl acetal | 0.16 ml | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-1-(2,2-dimethoxyethyl)-5-(1-hydroxy-2,2-dimethylpropyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 198 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)O)CC(OC)OC)C=CC1 | C29H35ClN2O6
